US07557114B2
(b) 5-(4-Methoxy-piperidin-1-yl)-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-(4-methoxy-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Brown solid. MS (m/e): 233.3 ([M+H]+, 100%).

reactant | 5-(4-methoxy-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CCC(CC1)OC | C19H28N2O3
reactant | hydrochloric acid | Cl | ClH
product | 5-(4-Methoxy-piperidin-1-yl)-2,3-dihydro-1H-isoindole hydrochloride | Cl.COC1CCN(CC1)C=1C=C2CNCC2=CC1 | InChI=1S/C14H20N2O.ClH/c1-17-14-4-6-16(7-5-14)13-3-2-11-9-15-10-12(11)8-13;/h2-3,8,14-15H,4-7,9-10H2,1H3;1H
